Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-0.6698949804300001
[O:1]=[C:2]([H:3])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([C:4][H:5])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.07672112825
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],3.23578297043
[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.602438084430001
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4],3.42846522132
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2][H:3],5.49755162977
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.63050025807
[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7].[O:8][H:9],4.741210440290001
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15],0.82859283756
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[H:9],1.98299811756
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.82615472963
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[O:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],-1.51675933486
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:9]([H:10])([H:11])[O:12][H:13],4.80182757479
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-4.44328106015
[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-1.42386026865
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.47325830655
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-5.356495273999999
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.641613069
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.63278838621
[H:1]/[C:2]([C:3]1[C:4][O:5]1)=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2]([C:3]=[C:4]=[O:5])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],-2.50249271107
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],3.90080714639
[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-7.42964312033
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][H:6],1.24518474014
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6],2.95052147085
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.222511605119999
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6],2.99955222423
[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.49517061811
[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:10]([H:11])([H:12])[H:13],7.50957076293
